US09216968B2
methyl 6-({[2-(Trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylate
To a solution of methyl 6-amino-1H-benzimidazole-4-carboxylate (266 mg) in dehydrated THF (12 mL), N,N-diisopropylethylamine (284 μL) was added, and the solution was stirred under ice-cooling. To this solution, 2-(trifluoromethyl)benzoyl chloride (284 μL) in dehydrated THF (5 mL) was added slowly dropwise, and stirred at the same temperature for 3 hours. After ice water was added, THF was removed under reduced pressure, and aqueous saturated sodium bicarbonate was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified on NH silica gel column chromatography (ethyl acetate→ethyl acetate/MeOH) to obtain the titled compound (309 mg) as pale yellow powder.

reactant | methyl 6-amino-1H-benzimidazole-4-carboxylate | 266 mg | NC=1C=C(C2=C(NC=N2)C1)C(=O)OC | C9H9N3O2
reactant | 2-(trifluoromethyl)benzoyl chloride | 284 μL | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | N,N-diisopropylethylamine | 284 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 6-({[2-(Trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylate | 309 mg | FC(C1=C(C=CC=C1)C(=O)NC=1C=C(C2=C(NC=N2)C1)C(=O)OC)(F)F | C17H12F3N3O3
